US04393210
Then, 23 of 2-(3-hydroxypropyl)-4-phenyl-1-(2H)-isoquinolone was added to a mixture of 60 ml of benzene and 25 ml of thionyl chloride and the mixture was heated at reflux for 1 hour. The solvent was distilled off and the residue was dissolved in dichloromethane. The solution was washed with water and dried, and then the solvent was distilled off. The resulting crystals were recrystallized from a mixture of ethyl acetate and petroleum ether to obtain 23.3 g of 2-(3-chloropropyl)-4-phenyl-1(2H)-isoquinolone having a melting point of 138° C. as colorless prisms.

reactant | 2-(3-hydroxypropyl)-4-phenyl-1-(2H)-isoquinolone | OCCCN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O | C18H17NO2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-(3-chloropropyl)-4-phenyl-1(2H)-isoquinolone | 23.3 g | ClCCCN1C(C2=CC=CC=C2C(=C1)C1=CC=CC=C1)=O | C18H16ClNO
